US09119396B2
A mixture of 1.00 g of 2-fluoro-6-(trifluoromethyl)benzaldehyde, 633 mg of methyl thioglycolate, 1.21 g of potassium carbonate and 15 ml of DMF was stirred at 130° C. for 2 hours. The reaction mixture was cooled to room temperature. To the reaction mixture was added water, and then extracted with tert-butyl methyl ether 3 times. The combined organic layer was washed with water, followed by saturated aqueous sodium chloride solution. The mixture was dried over magnesium sulfate, and then concentrated under reduced pressure to obtain 480 mg of methyl 4-(trifluoromethyl)benzo[b]thiophene-2-carboxylate (the present compound 3).

reactant | 2-fluoro-6-(trifluoromethyl)benzaldehyde | 1.00 g | FC1=C(C=O)C(=CC=C1)C(F)(F)F | C8H4F4O
reactant | methyl thioglycolate | 633 mg | C(CS)(=O)OC | C3H6O2S
reactant | potassium carbonate | 1.21 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 15 ml | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | methyl 4-(trifluoromethyl)benzo[b]thiophene-2-carboxylate | 480 mg | FC(C1=CC=CC=2SC(=CC21)C(=O)OC)(F)F | C11H7F3O2S
